* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.010537e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((2.016424e-01)*u*u + (3.235503e+00)*u + (1.583567e+01)),1.757526e+01),8.469218e+01)}
.param L_a = {min(max(exp((1.372430e-01)*u*u + (2.019304e+00)*u + (-4.721692e+00)),5.940210e-06),2.758018e-05)}
.param R_pl = {min(max(exp((7.711755e-13)*u*u + (1.636666e-11)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((1.969229e-04)*u*u + (4.635232e-03)*u + (2.757254e-02),4.626394e-04),2.685268e-03)}
.param G1 = {min(max((4.142988e-05)*u*u + (2.353471e-04)*u + (-2.745210e-03),-1.854206e-03),-4.344895e-04)}
.param w1 = {min(max(exp((7.351721e-02)*u*u + (1.355005e+00)*u + (2.112696e+01)),2.902916e+06),3.532720e+06)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((-1.140090e-15)*u*u + (-2.064686e-14)*u + (1.450419e+01)),1.981182e+06),2.001044e+06)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-5.718576e-02)*u*u + (-1.142415e+00)*u + (-1.408468e+01)),1.938731e-04),2.218250e-04)}
.param gn1 = {min(max(exp((-2.062294e-01)*u*u + (-3.327054e+00)*u + (-1.298980e+01)),3.199564e-01),1.526790e+00)}
.param gn2 = {min(max(exp((-2.008101e-01)*u*u + (-3.223818e+00)*u + (-1.390282e+01)),7.924860e-02),3.778328e-01)}
.param gn3 = {min(max(exp((-2.243881e-01)*u*u + (-3.672922e+00)*u + (-1.729428e+01)),2.176105e-02),1.041600e-01)}
.param gn4 = {min(max(exp((-1.879032e-01)*u*u + (-2.972727e+00)*u + (-1.462676e+01)),1.150614e-02),5.546947e-02)}
.param gn5 = {min(max(exp((5.119673e+00)*u*u + (9.816494e+01)*u + (4.566675e+02)),4.809620e-06),4.875335e-03)}
.param gn6 = {min(max(exp((-2.084077e-01)*u*u + (-4.261718e+00)*u + (-3.918229e+01)),1.275927e-08),2.602383e-08)}
.param vreg = {min(max((2.353546e-04)*u*u + (3.060624e-03)*u + (9.095123e-01),9.002995e-01),9.039676e-01)}
.param COUT=9.987532e-10 ESR=4.978396e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-5.448635e-03,1.000000e-06,-1.913368e-03,1.300000e-05,-8.245393e-04,2.500000e-05,-1.109923e-04,3.700000e-05,4.387187e-04,4.900000e-05,8.962677e-04,6.100000e-05,1.294799e-03,7.300000e-05,1.652438e-03,8.500000e-05,1.980219e-03,9.700000e-05,2.285386e-03,1.090000e-04,2.572968e-03,1.210000e-04,2.846609e-03,1.330000e-04,3.109039e-03,1.450000e-04,3.362359e-03,1.570000e-04,3.608224e-03,1.690000e-04,3.847959e-03,1.810000e-04,4.082643e-03,1.930000e-04,4.313161e-03,2.050000e-04,4.540253e-03,2.170000e-04,4.764535e-03,2.290000e-04,4.986533e-03,2.410000e-04,5.206692e-03,2.530000e-04,5.425392e-03,2.650000e-04,5.642964e-03,2.770000e-04,5.859693e-03,2.890000e-04,6.075825e-03,3.010000e-04,6.291580e-03,3.130000e-04,6.507146e-03,3.250000e-04,6.722694e-03,3.370000e-04,6.938373e-03,3.490000e-04,7.154317e-03,3.610000e-04,7.370647e-03,3.730000e-04,7.587472e-03,3.850000e-04,7.804892e-03,3.970000e-04,8.022996e-03,4.090000e-04,8.241871e-03,4.210000e-04,8.461595e-03,4.330000e-04,8.682242e-03,4.450000e-04,8.903884e-03,4.570000e-04,9.126589e-03,4.690000e-04,9.350425e-03,4.810000e-04,9.575458e-03,4.930000e-04,9.724480e-03,5.010000e-04,1.010371e-02,5.210000e-04,1.048689e-02,5.410000e-04,1.087435e-02,5.610000e-04,1.126646e-02,5.810000e-04,1.166363e-02,6.010000e-04,1.206634e-02,6.210000e-04,1.247514e-02,6.410000e-04,1.289069e-02,6.610000e-04,1.331376e-02,6.810000e-04,1.374534e-02,7.010000e-04,1.418659e-02,7.210000e-04,1.463902e-02,7.410000e-04,1.510454e-02,7.610000e-04,1.558559e-02,7.810000e-04,1.608541e-02,8.010000e-04,1.660829e-02,8.210000e-04,1.716004e-02,8.410000e-04,1.774856e-02,8.610000e-04,1.838469e-02,8.810000e-04,1.908321e-02,9.010000e-04,1.986395e-02,9.210000e-04,2.075233e-02,9.410000e-04,2.177845e-02,9.610000e-04,2.297324e-02,9.810000e-04,2.436150e-02,1.001000e-03,2.595459e-02,1.021000e-03,2.774768e-02,1.041000e-03,2.972347e-02,1.061000e-03,3.185872e-02,1.081000e-03,3.412977e-02,1.101000e-03,3.651527e-02,1.121000e-03,3.899716e-02,1.141000e-03,4.156061e-02,1.161000e-03,4.419361e-02,1.181000e-03,4.688645e-02,1.201000e-03,4.963128e-02,1.221000e-03,5.242170e-02,1.241000e-03,5.525249e-02,1.261000e-03,5.811935e-02,1.281000e-03,6.101870e-02,1.301000e-03,6.394755e-02,1.321000e-03,6.690337e-02,1.341000e-03,6.988404e-02,1.361000e-03,7.288772e-02,1.381000e-03,7.591286e-02,1.401000e-03,7.895809e-02,1.421000e-03,8.202223e-02,1.441000e-03,8.510427e-02,1.461000e-03,8.820330e-02,1.481000e-03,9.131852e-02,1.501000e-03,9.444923e-02,1.521000e-03,9.759481e-02,1.541000e-03,1.007547e-01,1.561000e-03,1.039284e-01,1.581000e-03,1.071155e-01,1.601000e-03,1.103156e-01,1.621000e-03,1.135282e-01,1.641000e-03,1.167532e-01,1.661000e-03,1.199901e-01,1.681000e-03,1.232388e-01,1.701000e-03,1.264989e-01,1.721000e-03,1.297704e-01,1.741000e-03,1.330529e-01,1.761000e-03,1.363463e-01,1.781000e-03,1.396504e-01,1.801000e-03,1.429651e-01,1.821000e-03,1.462903e-01,1.841000e-03,1.496258e-01,1.861000e-03,1.529716e-01,1.881000e-03,1.563275e-01,1.901000e-03,1.596935e-01,1.921000e-03,1.630694e-01,1.941000e-03,1.664553e-01,1.961000e-03,1.698511e-01,1.981000e-03,1.732567e-01,2.001000e-03,1.766721e-01,2.021000e-03,1.800973e-01,2.041000e-03,1.835323e-01,2.061000e-03,1.869770e-01,2.081000e-03,1.904314e-01,2.101000e-03,1.938957e-01,2.121000e-03,1.973697e-01,2.141000e-03,2.008536e-01,2.161000e-03,2.043473e-01,2.181000e-03,2.078509e-01,2.201000e-03,2.113646e-01,2.221000e-03,2.148882e-01,2.241000e-03,2.184221e-01,2.261000e-03,2.219661e-01,2.281000e-03,2.255206e-01,2.301000e-03,2.290855e-01,2.321000e-03,2.326611e-01,2.341000e-03,2.362475e-01,2.361000e-03,2.398448e-01,2.381000e-03,2.434534e-01,2.401000e-03,2.470735e-01,2.421000e-03,2.507052e-01,2.441000e-03,2.543490e-01,2.461000e-03,2.580050e-01,2.481000e-03,2.616737e-01,2.501000e-03,2.653556e-01,2.521000e-03,2.690509e-01,2.541000e-03,2.727602e-01,2.561000e-03,2.764840e-01,2.581000e-03,2.802230e-01,2.601000e-03,2.839777e-01,2.621000e-03,2.877488e-01,2.641000e-03,2.915372e-01,2.661000e-03,2.953437e-01,2.681000e-03,2.991691e-01,2.701000e-03,3.030146e-01,2.721000e-03,3.068811e-01,2.741000e-03,3.107698e-01,2.761000e-03,3.146820e-01,2.781000e-03,3.186191e-01,2.801000e-03,3.225825e-01,2.821000e-03,3.265738e-01,2.841000e-03,3.305945e-01,2.861000e-03,3.346465e-01,2.881000e-03,3.387317e-01,2.901000e-03,3.428520e-01,2.921000e-03,3.470095e-01,2.941000e-03,3.512065e-01,2.961000e-03,3.554453e-01,2.981000e-03,3.597285e-01,3.001000e-03,3.640587e-01,3.021000e-03,3.684388e-01,3.041000e-03,3.728717e-01,3.061000e-03,3.773608e-01,3.081000e-03,3.819093e-01,3.101000e-03,3.865211e-01,3.121000e-03,3.912002e-01,3.141000e-03,3.959508e-01,3.161000e-03,4.007777e-01,3.181000e-03,4.056858e-01,3.201000e-03,4.106808e-01,3.221000e-03,4.157687e-01,3.241000e-03,4.209561e-01,3.261000e-03,4.262504e-01,3.281000e-03,4.316596e-01,3.301000e-03,4.371928e-01,3.321000e-03,4.428597e-01,3.341000e-03,4.486715e-01,3.361000e-03,4.546404e-01,3.381000e-03,4.607801e-01,3.401000e-03,4.672060e-01,3.421000e-03,4.737447e-01,3.441000e-03,4.805072e-01,3.461000e-03,4.875150e-01,3.481000e-03,4.947924e-01,3.501000e-03,5.023664e-01,3.521000e-03,5.102669e-01,3.541000e-03,5.185272e-01,3.561000e-03,5.271834e-01,3.581000e-03,5.362749e-01,3.601000e-03,5.458434e-01,3.621000e-03,5.559325e-01,3.641000e-03,5.665863e-01,3.661000e-03,5.778477e-01,3.681000e-03,5.897564e-01,3.701000e-03,6.023461e-01,3.721000e-03,6.156422e-01,3.741000e-03,6.296601e-01,3.761000e-03,6.444034e-01,3.781000e-03,6.598645e-01,3.801000e-03,6.760254e-01,3.821000e-03,6.928603e-01,3.841000e-03,7.103384e-01,3.861000e-03,7.284264e-01,3.881000e-03,7.470908e-01,3.901000e-03,7.663001e-01,3.921000e-03,7.860249e-01,3.941000e-03,8.062388e-01,3.961000e-03,8.269180e-01,3.981000e-03,8.480414e-01,4.001000e-03,8.695897e-01,4.021000e-03,8.915451e-01,4.041000e-03,9.138910e-01,4.061000e-03,9.366115e-01,4.081000e-03,9.596913e-01,4.101000e-03,9.831160e-01,4.121000e-03,1.006871e+00,4.141000e-03,1.030944e+00,4.161000e-03,1.055170e+00,4.181000e-03,1.079840e+00,4.201000e-03,1.104789e+00,4.221000e-03,1.130002e+00,4.241000e-03,1.155467e+00,4.261000e-03,1.181170e+00,4.281000e-03,1.207100e+00,4.301000e-03,1.233246e+00,4.321000e-03,1.259596e+00,4.341000e-03,1.286139e+00,4.361000e-03,1.312865e+00,4.381000e-03,1.339764e+00,4.401000e-03,1.366825e+00,4.421000e-03,1.394040e+00,4.441000e-03,1.421399e+00,4.461000e-03,1.448894e+00,4.481000e-03,1.476516e+00,4.501000e-03,1.504258e+00,4.521000e-03,1.532112e+00,4.541000e-03,1.560071e+00,4.561000e-03,1.588127e+00,4.581000e-03,1.616275e+00,4.601000e-03,1.644508e+00,4.621000e-03,1.672819e+00,4.641000e-03,1.701204e+00,4.661000e-03,1.729657e+00,4.681000e-03,1.758172e+00,4.701000e-03,1.786745e+00,4.721000e-03,1.815371e+00,4.741000e-03,1.844046e+00,4.761000e-03,1.872766e+00,4.781000e-03,1.901525e+00,4.801000e-03,1.930322e+00,4.821000e-03,1.959151e+00,4.841000e-03,1.988010e+00,4.861000e-03,2.016895e+00,4.881000e-03,2.045803e+00,4.901000e-03,2.074732e+00,4.921000e-03,2.103678e+00,4.941000e-03,2.132638e+00,4.961000e-03,2.161611e+00,4.981000e-03,2.190594e+00,5.001000e-03,2.219584e+00,5.021000e-03,2.248580e+00,5.041000e-03,2.277579e+00,5.061000e-03,2.306580e+00,5.081000e-03,2.335580e+00,5.101000e-03,2.364577e+00,5.121000e-03,2.393571e+00,5.141000e-03,2.422559e+00,5.161000e-03,2.451541e+00,5.181000e-03,2.480513e+00,5.201000e-03,2.509476e+00,5.221000e-03,2.538428e+00,5.241000e-03,2.567368e+00,5.261000e-03,2.596294e+00,5.281000e-03,2.625205e+00,5.301000e-03,2.654101e+00,5.321000e-03,2.682980e+00,5.341000e-03,2.711841e+00,5.361000e-03,2.740684e+00,5.381000e-03,2.769507e+00,5.401000e-03,2.798311e+00,5.421000e-03,2.827093e+00,5.441000e-03,2.855853e+00,5.461000e-03,2.884591e+00,5.481000e-03,2.913306e+00,5.501000e-03,2.941998e+00,5.521000e-03,2.970665e+00,5.541000e-03,2.999307e+00,5.561000e-03,3.027924e+00,5.581000e-03,3.056514e+00,5.601000e-03,3.085079e+00,5.621000e-03,3.113616e+00,5.641000e-03,3.142127e+00,5.661000e-03,3.170609e+00,5.681000e-03,3.199064e+00,5.701000e-03,3.227490e+00,5.721000e-03,3.255887e+00,5.741000e-03,3.284256e+00,5.761000e-03,3.312594e+00,5.781000e-03,3.340904e+00,5.801000e-03,3.369183e+00,5.821000e-03,3.397432e+00,5.841000e-03,3.425650e+00,5.861000e-03,3.453838e+00,5.881000e-03,3.481995e+00,5.901000e-03,3.510120e+00,5.921000e-03,3.538215e+00,5.941000e-03,3.566278e+00,5.961000e-03,3.594309e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 8.614996e-09        $ corner 18.47 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 6.117323e-10        $ corner 260.2 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 4.250833e-11        $ corner 3744 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 4.154538e-13        $ corner 3.831e+05 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 2.077549e-13        $ corner 7.661e+05 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 2.206154e-15        $ corner 7.214e+07 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

